Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Avelox / Nifedipine / Pulmicort
 
Attending: ___.
 
Chief Complaint:
Progressive shortness of breath

 
Major Surgical or Invasive Procedure:
___ Diagnostic cardiac catheterization 
1.  Right dominant system demonstrated no obstructive disease. 
The
LMCA, LAD, LCx, and RCA were all normal  2.  Limited resting 
hemodynamics revealed a normal right-sidedfilling pressure with 
an RVEDP of 8mmHg and a borderline normal wedge pressure with a 
mean PCWP of 11 mmHg. The PASP was moderately elevated at 50 
mmHg.  The cardiac output was preserved with a CI of 2.8 
L/min/m2. 3.  A supravalvular aortogram showed no aortic 
regurgiation and wide
sinus of Valsalva widths.  The distal aortogram showed minimal
obstructive disease 

   

 

 
History of Present Illness:
___ yo woman with a history of hepatopulmonary syndrome who has 
developed progressive shortness of breath due to critical aortic 
stenosis. She currently reports exertional dyspnea at ___ blocks 
that requires that she stop and rest.  She does not have chest 
pain and has not had any episodes of dizziness or syncope with 
the episodes.  She has become markedly limited in her activity 
over the past several months. She is ___ Class III and has been 
on supplememtal oxygen logstanding. She is referred for 
evaluation for aortic valve replacement.
 

 
Past Medical History:
Aortic stenosis  
Hepatic cirrhosis 
Hepatopulmonary syndrome
Pulmonary hypertension
Esophageal varices- s/p bleed ___
Prior ETOH use
Pulmonary nodules by chest CT stable since ___
Arthritis of spine and hips
Basal cell cancer (removed from lip) 
 
Social History:
___
Family History:
Father had emphysema. 
Mother has alzheimer's and is ___
 
Physical Exam:
Patient seen an examined upon arrival to ___ 4 pre cardiac 
cathetrization
VS: 100-110/60-70 HR 80 SR RR 16 2L NP sats 96%
Lungs CTA 
Heart RRR IV/VI SEM
ABD NT + BS
PV Fem 2+ no bruits
   DPs 1+ b/l no edema
 
Pertinent Results:
___ 12:30PM BLOOD WBC-4.9 RBC-4.52 Hgb-14.6 Hct-42.8 MCV-95 
MCH-32.4* MCHC-34.2 RDW-13.1 Plt ___
___ 12:30PM BLOOD Plt ___
___ 12:30PM BLOOD ___ PTT-27.4 ___
___ 12:30PM BLOOD Glucose-104* UreaN-12 Creat-0.7 Na-135 
K-4.0 Cl-101 HCO3-23 AnGap-15
___ 12:30PM BLOOD ALT-25 AST-44* AlkPhos-89 TotBili-1.9*

Carotid artery duplex:  No evidence of carotid artery stenosis 
bilaterally. 
  

Chest CT:IMPRESSION: 
1. Dense atherosclerotic calcification of the aortic valve but 
without annular calcifications. Mild calcifications of the 
thoracic aorta which is of normal caliber. 2. Mild peripheral 
interstitial abnormality, but no pulmonary nodules identified. 
3. Nodular shrunken appearance to the liver compatible with 
cirrhosis. 4. Hiatal hernia with thickening of the mucosa in the 
region of the hernia.  This could be explained by the patient's 
history of varices, although gastritis or masses are not 
excluded. If indicated, further evaluation could be performed 
with endoscopy. 

Gallbladder/Liver ultrasound:  1. Non-occlusive thrombus in the 
left portal vein. 2. Cirrhotic liver with lobulated contour and 
heterogeneous echotexture. No evidence for focal liver masses. 
3. Echogenic appearance of the renal cortex consistent with 
medical renal disease. 4. Small adherent lesion to the 
gallbladder wall may represent a small polyp versus an adherent 
stone. Dr. ___ was paged after completion of the study to 
discuss these findings. 

Duplex Abdomen:  1. Non-occlusive thrombus in the left portal 
vein. 
2. Cirrhotic liver with lobulated contour and heterogeneous 
echotexture. No evidence for focal liver masses. 3. Echogenic 
appearance of the renal cortex consistent with medical renal 
disease. 4. Small adherent lesion to the gallbladder wall may 
represent a small polyp versus an adherent stone. Dr. ___ was 
paged after completion of the study to discuss these findings. 

 

 
Brief Hospital Course:
___ yo female admitted for cardiac catheterization and evaluation 
of her critical aortic stenosis.  Patient was initially 
consulted to cardiac surgery for evaluation for AVR however 
declined to due history of hepatic cirrhosis with esophageal 
varices.  Patient was then seen by Dr. ___ evaluation of 
CORE VALVE Trail/TAVI and workup was initiated (carotid duplex, 
chest CT, abdominal ultrasound).  Due to her esophageal varices 
it was recommended by GI that she have EGD with possible banding 
of varices dependent upon grade.  She was originally scheduled 
for EDG on ___ however due to overwhelming anxiety and 
patients wish to go home for a few days the procedure was 
postponed and will be arranged on an outpatient basis.  Patient 
remained hemodynamically stable throughout her hospitalization 
and will be discharged to home with CT angio on ___ and 
EGD/varice banding on ___ with GI.  She will follow up Dr. 
___ to complete Core Valve study evaluation.
 
Medications on Admission:
ALBUTEROL SULFATE - 90 mcg HFA Aerosol Inhaler - one puf TID as 
needed / dyspnea
FUROSEMIDE - 40 mg Tablet - one Tablet BID
POTASSIUM CHLORIDE [KLOR-CON M20] - 20 mEq Tablet - 2 Tablets 
BID
SILDENAFIL [REVATIO] - 20 mg Tablet - one Tablet TID
SPIRONOLACTONE - 50 mg Tablet - one Tablet BID
ZOLPIDEM - 10 mg Tablet - one Tablet as needed
MULTIVITAMIN - 1 Tablet, Chewable - daily
 
Discharge Medications:
1. furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. spironolactone 50 mg Tablet Sig: One (1) Tablet PO twice a 
day.  
3. potassium chloride 20 mEq Packet Sig: Two (2) Packet PO BID 
(2 times a day).  
4. Revatio 20 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
5. zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
6. multivitamin     Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
7. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) puff Inhalation three times a day as needed for 
shortness of breath or wheezing.  
8. Ativan 0.5 mg Tablet Sig: ___ Tablet PO every twelve (12) 
hours as needed for anxiety.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Aortic stenosis
Hepatic cirrhosis 
Hepatopulmonary syndrome- pulmonary hypertension
Esophageal varices 
 - s/p bleed ___
Pulmonary nodules by chest CT stable since ___
Arthritis of spine and hips
Basal cell cancer removed from lip 
Hemorrhoid surgery

 
Discharge Condition:
___ yo with a history of hepatopulmonary syndrome who has 
developed progressive shortness of breath due to critical aortic 
stenosis. Referred for cardiac cath and surgical eval for AVR. 
Declined by ___ due to bleed risk in setting of liver disease. 
Post cath recovery uneventful. She remained hemodynamically 
stable with no changes made in meds or diuretic therapy. 
Remainder of hospitalization for evaluation/diagnostic testing 
pre TAVI by Dr ___.  
 
She is discharged on all current meds. Will return for CTA of 
the torso. ___ will contact Mrs ___ after discharge in 
ongoing coordination and scheduling for return date. She is 
tentatively scheduled for esophageal banding on ___ with 
Dr. ___ will call to confirm procedure date and time with 
patient upon discharge.  
 
Cardiac cath: 
1. Coronary angiography in this right dominant demonstrated no 
obstructive disease. The LMCA, LAD, LCx, and RCA were all 
normal.  
2. Limited resting hemodynamics revealed a normal right-sided  
filling pressure with an RVEDP of 8mmHg and a borderline normal 
wedge  
pressure with a mean PCWP of 11 mmHg. The PASP was moderately 
elevated at 50 mmHg. The cardiac output was preserved with a CI 
of 2.8 L/min/m2.  
3. A supravalvular aortogram showed no aortic regurgiation and 
wide  
sinus of Valsalva widths. The distal aortogram showed minimal  
obstructive disease.  
 
 
Mental Status: Clear and coherent. Level of Consciousness: Alert 
and interactive. Activity Status: Ambulatory - Independent. 
 
VS 118/65 HR ___ SR 
Lungs CTA 
Heart RRR IV/VI SEM 
PV R fem access - hematoma or bruit 
labs none at discharge 
#1. Aortic Stenosis - critical AS by cath, declined by c-surg 
a. No obstructive CAD by cath 
b. Outpatient CT angio on ___ 
c. Follow up with Dr. ___: ___ 
#2. Esophageal Varices - stable 
a. Outpatient EGD tentatively scheduled for ___ with Dr. ___ 
___ possible banding as part of pre-op eval for TAVI 
#3. CHF - NYHA class II-III/Stage C 
a. Continue furosemide/aldactone/potassium 
b. Daily weights, call PCP ___ 3 pound weight gain in 2 days or 
5 pound weight gain in 5 days 
c. Low sodium diet 
#4. Pulmonary HTN -stable 
a. Revatio 20 mg tid  
Condition: Good 
Disp: Home with Follow up with Dr. ___ to 
arrange) and follow with GI/Liver on ___ (GI will call 
patient with time). 

 
Discharge Instructions:
 
 You were admitted for a cardiac catheterization as part of an 
evaulation of your aortic stenosis. Due to the high surgical 
risk for bleeding due to your liver disease you are not a 
candidate for valve replacement by surgery. Dr ___ will 
perform the aortic valve replacement by a nonsurgical approach 
in the future. He has discussed this in detail with you. If you 
have any questions you may reach Dr ___ at ___. Also 
the nurse practitioner who coordinates this program - ___ 
___ - may be reached at ___.
  You have been scheduled for a CT angiogram of the 
chest/abdomen ___ at 10AM
  You have been tentatively scheduled for a procedure with Dr. 
___ to evaluate and treat your esophagus.  The date is 
___ however someone will call to confirm this with you. 
  Continue all current medicines as prescribed.  You may take 
___ tablet of a 0.5 mg ativan every 12 hours as needed for 
anxiety.  Do not drive when taking ativan.  
 
Followup Instructions:
___